US05925768
1-(1-Bromoethyl)-4-methylbenzene
This compound is prepared by the procedure described in Preparation 3.4 from 30 ml of a 33% solution of HBr in AcOH and 7 ml of 1-(1-hydroxyethyl)-4-methylbenzene. 9 g of the expected product are obtained.

reactant | HBr | Br | BrH
reactant | 1-(1-hydroxyethyl)-4-methylbenzene | 7 ml | OC(C)C1=CC=C(C=C1)C | C9H12O
solvent | AcOH | CC(=O)O | C2H4O2
product | 1-(1-Bromoethyl)-4-methylbenzene | 9 g | BrC(C)C1=CC=C(C=C1)C | C9H11Br
